US05314889
2-[(2-Indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-carboxymethylthiazol
0.5 g of 2-[(1-acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole, prepared above according to Example 10, is dissolved in 10 ml of 950 ethanol and then 1.5 ml of 2N NAOH are added. The reaction mixture is stirred overnight at room temperature and then concentrated under vacuum. The residue is taken up in a buffer solution, pH=2, a precipitate is separated by filtration, washed with water, filtered and then rinsed with ether.

reactant | 2-[(1-acetyl-2-indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-ethoxycarbonylmethylthiazole | 0.5 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)OCC | C26H25N3O6S
solvent | ethanol | C(C)O | C2H6O
product | 2-[(2-Indolyl)carbonylamino]-4-(2,4-dimethoxyphenyl)-5-carboxymethylthiazol | N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC(=O)O | C22H19N3O5S
